US06797725B2
To a solution of phosphoric acid 2,2-dimethyl-[1,3]-dioxolan-4-yl ester dimethyl ester (600 mg, 2.5 mmol) in 3.0 mL of dichloromethane and 0.5 mL of methanol was added 3.5 mL of 1 M solution of hydrogen chloride in dimethylether dropwise. The reaction mixture was stirred for 5 h at room temperature and concentrated. The residue was purified by silica gel chromatography eluting with CH2Cl2-Methanol (9:1) to yield 321 mg (69%) of phosphoric acid 1,2-dihydroxy-ethyl ester dimethyl ester as an oil. 1H NMR (400 MHz, DMSO-d6) δ 4.99 (d, J=5.2 Hz, 1H, OH), 4.66 (t, J=5.6 Hz, 1H, OH), 3.93-3.98 (m, 1H), 3.78-3.83 (m, 1H), 3.65 (d, J=11.2 Hz, 6H), and 3.27-3.37 (m, 3H). 31P NMR (162 MHz, d6-DMSO) δ 2.51.

reactant | phosphoric acid 2,2-dimethyl-[1,3]-dioxolan-4-yl ester dimethyl ester | 2.5 mmol, 600 mg | COP(OC1OC(OC1)(C)C)(OC)=O | C7H15O6P
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 3.0 mL | ClCCl | CH2Cl2
solvent | methanol | 0.5 mL | CO | CH4O
solvent | dimethylether | COC | C2H6O
product | phosphoric acid 1,2-dihydroxy-ethyl ester dimethyl ester | 321 mg, 69% | COP(OC(CO)O)(OC)=O | C4H11O6P
